US08048881B2
238.1. 4-{(S)-4-tert-butoxycarbonyl-2-[(6-imidazol-1-yl-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester
Imidazole (3 mg) was added to a suspension of NaH (1.7 mg) in anhydrous THF (0.2 ml) at RT. After 30 min stirring at RT, 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester (25 mg) dissolved in THF (0.2 ml) was added. The mixture was allowed to stir at RT overnight. Water was added and the resulting mixture was extracted with DCM. The org. phases were dried (Na2SO4) and evaporated off.

reactant | Imidazole | 3 mg | N1C=NC=C1 | C3H4N2
reactant | NaH | 1.7 mg | [H-].[Na+]
reactant | 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 25 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)Cl)C1=CC=CC=C1)=O | C27H34ClN5O6
reactant | Water | O | H2O
solvent | THF | 0.2 ml | C1CCOC1 | C4H8O
solvent | THF | 0.2 ml | C1CCOC1 | C4H8O
product | 4-{(S)-4-tert-butoxycarbonyl-2-[(6-imidazol-1-yl-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)N1C=NC=C1)C1=CC=CC=C1)=O | C30H37N7O6
